US07935688B2
Synthesis of (E)-3-ethyl-1-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1-penten-3-ol
1,1′-Bis(diphenylphosphino)ferrocene (104 mg, 0.19 mmol), potassium acetate (0.919 g, 9.4 mmol), bis(pinacolato)diboron (1.03 g, 4.1 mmol), a [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II), dichloromethane complex (1:1) (0.15 g, 0.19 mmol) and dioxane (20 mL) were added to trifluoromethanesulfonic acid 4-{1-ethyl-1-[4-(3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl ester (Example 1-(6); 1.6 g, 3.1 mmol). The mixture was stirred in a nitrogen atmosphere at 80° C. for five hours. Diethyl ether was added to the reaction mixture. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to give the title compound (1.0 g, 65%).

reactant | potassium acetate | 9.4 mmol, 0.919 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 4.1 mmol, 1.03 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
reactant | trifluoromethanesulfonic acid 4-{1-ethyl-1-[4-(3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl ester | 3.1 mmol, 1.6 g | C(C)C(CC)(C1=CC(=C(C=C1)C=CC(CC)(O)CC)C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C27H35F3O4S
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | 0.19 mmol, 104 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Diethyl ether | C(C)OCC | C4H10O
product | (E)-3-ethyl-1-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1-penten-3-ol | 1.0 g, 65% | C(C)C(/C=C/C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)CC)C)(CC)O | C32H47BO3
